US08686184B2
(2R,3R)-4-(2-Chloro-phenyl)-2-hydroxy-3-[4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzoylamino]-butyric acid (R1═—OH)
4-(3-Methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid (42 mg, 0.2 mmol, 1.0 eq.) was combined with DMF (500 μL) and HATU (88 mg, 0.2 mmol, 1.2 eq.) and stirred at room temperature for 15 minutes. (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid methyl ester (47 mg, 0.2 mmol, 1.0 eq.) in DIPEA (70 μL, 2.0 eq.) and DMF (500 μL) was then added and the resulting mixture was stirred overnight at room temperature. THF (500 μL) and 2 M aqueous NaOH (600 μL, 1 mmol) was added and the mixture was heated at 50° C. overnight. The solvent was removed and the product was dissolved in AcOH/H2O (50%) and purified by preparative HPLC to yield the title compound (58.3 mg, 56% purity). MS m/z [M+H]+ calc'd for C21H20ClN3O5, 430.11. found 430.0.

reactant | 4-(3-Methyl-5-oxo-2-pyrazolin-1-yl)benzoic acid | 0.2 mmol, 42 mg, 1.0 eq. | CC1=NN(C(C1)=O)C1=CC=C(C(=O)O)C=C1 | C11H10N2O3
reactant | HATU | 0.2 mmol, 88 mg, 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-Amino-4-(2-chloro-phenyl)-2-hydroxy-butyric acid methyl ester | 0.2 mmol, 47 mg, 1.0 eq. | COC([C@@H]([C@@H](CC1=C(C=CC=C1)Cl)N)O)=O | C11H14ClNO3
reactant | DIPEA | 70 μL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1 mmol, 2 M, 600 μL | [OH-].[Na+]
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | THF | 500 μL | C1CCOC1 | C4H8O
product | (2R,3R)-4-(2-Chloro-phenyl)-2-hydroxy-3-[4-(3-methyl-5-oxo-4,5-dihydro-pyrazol-1-yl)-benzoylamino]-butyric acid | 58.3 mg, 56% | ClC1=C(C=CC=C1)C[C@H]([C@H](C(=O)O)O)NC(C1=CC=C(C=C1)N1N=C(CC1=O)C)=O | C21H20ClN3O5
